US05712296
Ethyl 4-(4-bromophenyl)-3-oxo-butanoate
1 l (2 mol) of a 2M solution of isopropylmagnesium chloride in tetrahydrofuran is added dropwise to a solution of 125 g (0.95 mol) of malonic acid monoethyl ester in 1 l of tetrahydrofuran at 0° C. and the mixture is stirred at 20° C. for 1 hour. 146 g (0.63 mol) of 4-bromophenylacetyl chloride are then added dropwise at 20° C., and the reaction mixture is stirred at this temperature for 2 hours and brought to pH=3 with 1N hydrochloric acid. It is stirred overnight, the phases are separated, the aqueous phase is washed with diethyl ether, the combined organic phases are washed with water and aqueous sodium bicarbonate solution, the solvent is distilled off, the residue is dissolved in methylene chloride, the solution is dried with sodium sulphate and filtered over silica gel using methylene chloride and the solvent is removed on a rotary evaporator.

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | malonic acid monoethyl ester | 0.95 mol, 125 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | 4-bromophenylacetyl chloride | 0.63 mol, 146 g | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | Ethyl 4-(4-bromophenyl)-3-oxo-butanoate | BrC1=CC=C(C=C1)CC(CC(=O)OCC)=O | C12H13BrO3
